US09428528B2
Step 1 Preparation of (4S,5R)-5-[4-(6-Dimethylcarbamoyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester
To a stirred solution of 5-[4-((4S,5R)-3-tert-Butoxycarbonyl-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl)-phenyl]-pyridine-2-carboxylic acid (220 mg, 0.511 mmol) in dry tetrahydrofuran (6 mL) is added solution of N,N-dimethyl amine, 2 M in tetrahydrofuran (28 mg, 0.31 mL, 0.61 mmol), diisopropylamine (198 mg, 1.534 mmol) and 50% solution of triphenylphosphine in ethyl acetate (244 mg, 0.49 mL, 0.767 mmol) at room temperature. Resulting reaction mixture stirred at same temperature for 14 hours. Diluted with water and ethyl acetate, organic layer is separated and aqueous layer is extracted with ethyl acetate. Combined organic layer is dried over sodium sulphate, solvent is evaporated in vacuo under reduced pressure to obtain crude material purified by column chromatography eluting in 3% methanol in CH2Cl2 to afford title compound (100 mg): 1H-NMR (400 MHz, DMSO-d6) δ: 1.44 (s, 9H), 1.51 (s, 3H), 1.64 (s, 3H), 3.00 (s, 3H), 3.03 (s, 3H), 3.60-3.61 (m, 0.5H), 3.84-3.90 (m, 1.5H), 4.00-4.05 (m, 0.5H), 4.08-4.12 (m, 0.5H), 5.13 (d, 1H, J=7.24 Hz), 7.60 (d, 2H, J=8.24 Hz), 7.64 (d, 1H, J=8.20 Hz), 7.81 (d, 2H, J=8.32 Hz), 8.22 (dd, 1H, J=8.16 Hz, J=2.32 Hz), 8.91 (d, 1H, J=1.88 Hz), LC-MS (m/z): [M+H]=458.2.

reactant | 5-[4-((4S,5R)-3-tert-Butoxycarbonyl-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl)-phenyl]-pyridine-2-carboxylic acid | 0.511 mmol, 220 mg | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=CC(=NC1)C(=O)O)(C)C | C23H27FN2O5
reactant | N,N-dimethyl amine | CNC | C2H7N
reactant | diisopropylamine | 1.534 mmol, 198 mg | C(C)(C)NC(C)C | C6H15N
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.767 mmol, 0.49 mL, 244 mg | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 0.61 mmol, 0.31 mL, 28 mg | O1CCCC1 | C4H8O
product | (4S,5R)-5-[4-(6-Dimethylcarbamoyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)C(N(C)C)=O)(C)C | C25H32FN3O4
